Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
sensory symptoms
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH cluster headaches, migraines, head injury and heavy etoh
use who presents with multiple episodes of numbness.

Approximately 6 months ago, the patient noticed numbness in his
left ___ and ___ digit and medial forearm, particularly when
driving. Approximately a month after that, he had similar
symptoms on the other side. About 5 days ago, he started having
episodes where he would first have numbness in his right medial
arm that then progressed over seconds to his right face that was
accompanied by a headache. He describes the headache as
retro-orbital throbbing pain, and his symptoms typically resolve
after 5 minutes, or after he takes ibuprofen. When he has the
facial numbness, he sometimes feels "delirious", which he
describes as light-headedness or feeling like he is going to 
pass
out, but denies vertigo. He denies any visual changes including
seeing bright lights, jagged edges, dark spots, loss of vision,
double vision, blurry vision. He denies any photo/phonophobia,
speech difficulties, dysarthria. He denies any nausea, weakness,
gait difficulties. The episodes can happen when he is sitting,
standing or laying down. He had an episode while driving today 
so
he decided to get evaluated.
 
Past Medical History:
Cluster Headaches
Migraines
TBI

 
Social History:
___
Family History:
Brother with seizures as a child. No migraines in the family.
Father passed away from strokes/MIs later in life.

 
Physical Exam:
General: Awake, cooperative, NAD. 
HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted in
oropharynx.
Cardiac: Well perfused. 
Pulmonary: Breathing comfortably on room air.
Abdomen: obese 
Extremities: No cyanosis, clubbing, or edema bilaterally.
Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
Mental Status: Alert, oriented x 3. Makes minimal eye contact.
Able to relate history without difficulty. Attentive; Language 
is
fluent with intact repetition and comprehension. Normal prosody.
There are no paraphasic errors. Speech is not dysarthric. Able 
to
follow both midline and appendicular commands.

Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm and brisk. VFF to confrontation and no
extinction. 
 III, IV, VI: EOMI without nystagmus. Normal saccades.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing grossly intact to speech.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline and equal strength 
bilaterally.

-Motor: Normal bulk, tone throughout. 
   Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
 L  5    ___   ___   5    5  5     5     5   5
 R  5    ___   ___   5    5  5     5     5   5

-Sensory: Decreased sensation to gross touch and temp in
hypothenar eminence and lateral ___ and ___ digit on the right,
and on the hypothenar eminence on the left. Decreased
proprioception to small and medium movements at great toes b/l.

-DTRs:
   Bi Tri ___ Pat Ach 
 L  2  2    2    3   1   
 R  2  2    2    3   1  
 Plantar response was flexor bilaterally.

-Coordination: intention tremor b/l. No asterixis. No dysmetria
on FNF. 

DISCHARGE EXAM
 General: Awake, cooperative, NAD. 
HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted in
oropharynx.
Cardiac: Well perfused. 
Pulmonary: Breathing comfortably on room air.
Abdomen: obese 
Extremities: No cyanosis, clubbing, or edema bilaterally.
Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive; Language is fluent with intact
repetition and comprehension. Normal prosody. There are no
paraphasic errors. Speech is not dysarthric. Able to follow both
midline and appendicular commands.

Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm and brisk. VFF to confrontation and no
extinction. 
 III, IV, VI: EOMI without nystagmus. Normal saccades.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing grossly intact to speech.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline and equal strength 
bilaterally.

-Motor: Normal bulk, tone throughout. 
   Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
 L  5    ___   ___   5    5  5     5     5   5
 R  5    ___   ___   5    5  5     5     5   5

could not break ulnar strength

-Sensory: Decreased sensation to gross touch and temp in
hypothenar eminence and lateral ___ and ___ digit on the right,
and on the hypothenar eminence on the left. Decreased
proprioception to small and medium movements at great toes b/l.

-DTRs:
   Bi Tri ___ Pat Ach 
 L  2  2    2    3   1   
 R  2  2    2    3   1  
 Plantar response was flexor bilaterally.

-Coordination: intention tremor b/l. No asterixis. No dysmetria
on FNF. 

- Gait: deferred

 
Pertinent Results:
___ 06:58AM BLOOD WBC-5.4 RBC-4.39* Hgb-13.8 Hct-41.4 
MCV-94 MCH-31.4 MCHC-33.3 RDW-12.2 RDWSD-42.4 Plt ___
___ 06:58AM BLOOD ___ PTT-30.7 ___
___ 06:58AM BLOOD Glucose-91 UreaN-13 Creat-0.9 Na-141 
K-4.0 Cl-101 HCO3-23 AnGap-17
___ 03:55PM BLOOD ALT-36 AST-33 AlkPhos-55 TotBili-0.6
___ 03:55PM BLOOD Lipase-26
___ 03:55PM BLOOD cTropnT-<0.01
___ 06:58AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.3
___ 03:55PM BLOOD Albumin-4.4 Calcium-9.1 Phos-3.1 Mg-2.2 
Cholest-217*
___ 07:21PM BLOOD %HbA1c-5.2 eAG-103
___ 03:55PM BLOOD Triglyc-62 HDL-77 CHOL/HD-2.8 LDLcalc-128
___ 03:55PM BLOOD TSH-1.2
___ 03:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

MRI head
IMPRESSION: 
  
  
1. Punctate late acute to early subacute infarct in the left 
thalamus.  No 
associated hemorrhage or mass effect. 
2. Encephalomalacia in the right greater than left inferior 
frontal lobes. 
3. Dural venous sinuses are not assessed on this noncontrast 
exam. However, 
they appear patent on the preceding CTA. 

CTA h/n
CT head without contrast 
No evidence of a large territory infarction, hemorrhage, edema 
or mass. 
  
CTA head 
The ___ and its branches demonstrate no high-grade 
stenosis, 
occlusion or aneurysm greater than 3 mm. The dural venous 
sinuses are patent. 
  
CTA neck 
  
The bilateral vertebral arteries and common carotid arteries 
demonstrate no 
high-grade stenosis, occlusion or dissection. The internal 
carotid arteries 
bilaterally demonstrate no stenosis by NASCET criteria. 
  
The thyroid and lung apices are within normal limits. The 
supra-aortic 
vessels demonstrated 3 vessel take off which is conventional 
anatomy. 
  
Full report pending review by the neuroradiology team and 
availability of 
curved reformats. 

 
Brief Hospital Course:
___ PMH migraines, previous head injury who presented with 
multiple episodes of right facial and arm numbness, headache. 
The preliminary radiology report indicated a possible small 
focus of DWI abnormality with no ADC correlate. However, on 
review with stroke team this was felt not to represent acute 
infarct, and would not explain his headache symptomatology wise. 
It may have been T2 shinethrough as there was some T2 signal in 
the same region as well. Regardless, this would not change 
management. If he did have a stroke, it would be small vessel in 
etiology in that area, given his risk factors of HTN, HLD. A 
stuttering lacune perhaps could have been consistent with his 
symptoms. It seemed unlikely to be seizure as it only consisted 
of negative symptoms. Complex migraine was a consideration, as 
he reports a history of migraine, but he has not had aura in the 
past. Radiculopathy seemed unlikely given facial symptoms, no 
neck pain. He was started on atorvastatin 20mg, aspirin 81 mg, 
lisinopril 10 mg.

As his BP was on the higher side inpt, over 180 at times and 
requiring PRN hydralazine, we preferred to observe him an 
additional night, as a new BP med was started, however in 
discussion with the patient he strongly preferred being 
discharged, so he was discharged home. We counselled him 
strongly on establishing with a PCP.

TRANSITIONAL ISSUES

Needs to establish with a PCP

___:
-follow up BP control

HLD:
-started atorvastatin 20 mg for LDL 128

Stroke prevention:
-started aspirin 81 mg daily

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*2 
3.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

___ were hospitalized to the symptoms of right face and arm 
numbness.  He had a MRI of the head performed.  There is no 
evidence of a new stroke. It appears ___ may have had old 
strokes in the past however. It is not entirely clear what 
caused your symptoms of face numbness, it was not a stroke 
however. It may be related to migraines, or high blood pressure 
potentially. We noted that your blood pressure was high, with 
the systolic often over 180 (normal 120) while ___ were in the 
hospital. This is not ideal. ___ should buy a BP monitor and 
check and record your BP every day. We started ___ on aspirin to 
reduce the risk of future stroke. We also started a cholesterol 
medication because your cholesterol was high.

Please set up an appointment with a primary care doctor as soon 
as ___ can. High blood pressure, high cholesterol can increase 
your chance for stroke. We recommended that ___ stay for further 
monitoring of your BP as we started a medication for this. ___ 
indicated ___ preferred to be discharged however.

Sincerely,
Your ___ neurology team
 
Followup Instructions:
___